US06162954
a) 2,3-Dimethyl-4-(2,2,3-trimethylcyclopent-3-enyl)but-2-enoic acid ethyl ester
47.6 g (0.20 mol) of triethyl 2-phosphonopropionate was added dropwise under nitrogen to a cooled and stirred suspension of 4.8 g (0.20 mol) of sodium hydride in 300 ml of THF and stirring continued for 30 min. at room temperature. After addition of 30 g (0.18 mol) of 1-(2,2,3-trimethylcyclopent-3-enyl)propan-2-one, prepared from campholenic aldehyde as known per se, and 46 hours of more stirring, the reaction mixture was poured into 400 ml of ice-cold 1N hydrochloric acid and extracted with 2×300 ml of MTBE. The extract was washed with 5×350 ml of brine, dried (MgSO4) and concentrated in vacuo. The distillation at 90-97° C./0.065-0.075 Torr yielded 13 g of the product which was further purified by flash chromatography on silica gel (eluent: hexane/MTBE 15:1) to give 6.4 g (14% yield) of2,3-dimethyl-4-(2,2,3-trimethylcyclopent-3-enyl)but-2-enoic acid ethyl ester.

reactant | triethyl 2-phosphonopropionate | 0.20 mol, 47.6 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | sodium hydride | 0.20 mol, 4.8 g | [H-].[Na+]
reactant | 1-(2,2,3-trimethylcyclopent-3-enyl)propan-2-one | 0.18 mol, 30 g | CC1(C(CC=C1C)CC(C)=O)C | C11H18O
reactant | campholenic aldehyde | CC1=CCC(C1(C)C)CC=O | C10H16O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2,3-Dimethyl-4-(2,2,3-trimethylcyclopent-3-enyl)but-2-enoic acid ethyl ester | 13 g | C(C)OC(C(=C(CC1C(C(=CC1)C)(C)C)C)C)=O | C16H26O2
